US04234594
1-Acetyl-2[1-(2-chlorophenyl)-5-pyrazolyl] amino-2-imidazoline
5-Amino-1(2-chlorophenyl) pyrazole hydrochloride (Farmaco, 22, 68, 1967) (20.5 g.) and 1-acetyl-2-imidazolinone (12.6 g.) were reacted as described in Example I to give 17.11 g. product mp 179°-181° (crystallized from CH3CN)

reactant | 5-Amino-1(2-chlorophenyl) pyrazole hydrochloride | 20.5 g | Cl.NC1=CC=NN1C1=C(C=CC=C1)Cl
reactant | 1-acetyl-2-imidazolinone | 12.6 g | C(C)(=O)N1C=NC(C1)=O | C5H6N2O2
product | 1-Acetyl-2[1-(2-chlorophenyl)-5-pyrazolyl] amino-2-imidazoline | C(C)(=O)N1C(=NCC1)NC1=CC=NN1C1=C(C=CC=C1)Cl | C14H14ClN5O
